US04558155
N-[2-(3-Chlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride
Following the procedure of Preparation 11, 2-bromoethyl-3-chlorophenyl ether and isopropyl amine in excess were reacted and the reaction mixture processed to yield an oil, the free base of the title compound. A portion of the oil converted to the hydrochloride salt (77.8%), m.p. 153.5°-155.5° C.

reactant | 2-bromoethyl-3-chlorophenyl ether | BrCCC1=C(C=CC=C1Cl)OC1=C(C(=CC=C1)Cl)CCBr | C16H14Br2Cl2O
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | N-[2-(3-Chlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride | Cl.ClC=1C=C(OCCNC(C)C)C=CC1 | InChI=1S/C11H16ClNO.ClH/c1-9(2)13-6-7-14-11-5-3-4-10(12)8-11;/h3-5,8-9,13H,6-7H2,1-2H3;1H
